US07157447B2
(3,5-Difluoropyridin-2-yl)methanamine hydrochloride.
A mixture of 3,5-difluoropicolinonitrile (1.4 g, 10 mmol), conc.HCl (12 ml) and 10% Pd—C (200 mg) in 1:1 ethanol/tetrahydrofuran was shaken under a hydrogen atmosphere (50 psi) for 5 h. The reaction mixture was filtered and the ethanol removed in vacuo. The remaining solution was lyophilized to afford an off-white solid (2.16 g, 100% yield). LCMS (M+H) calcd for C6H7F2N2: 145.06. found: 145.12.

reactant | 3,5-difluoropicolinonitrile | 10 mmol, 1.4 g | FC=1C(=NC=C(C1)F)C#N | C6H2F2N2
reactant | HCl | 12 ml | Cl | ClH
catalyst | Pd—C | 200 mg | [Pd] | Pd
solvent | ethanol tetrahydrofuran | C(C)O.O1CCCC1
product | (3,5-Difluoropyridin-2-yl)methanamine hydrochloride | 2.16 g, 100% yield | Cl.FC=1C(=NC=C(C1)F)CN | InChI=1S/C6H6F2N2.ClH/c7-4-1-5(8)6(2-9)10-3-4;/h1,3H,2,9H2;1H
